US05530053
Preparation of 1-(1-ethylpropylamino)-4-bromanthraquinone (BEPAQ)
EPAQ (20.02 g) was dissolved in hot acetic acid. In a separate flask, bromine (12.03 g) was dissolved in acetic acid (ca. 10 mL). The bromine solution was slowly added to the dye solution. The reaction was allowed to proceed for 1/2 hour, with occasional shaking. The reaction mixture was poured into water (600 mL), and aqueous sodium sulfite was added to discharge the bromine. The aqueous solution was decanted off. The solid was dissolved in methylene chloride and then concentrated and slowly added to cold methanol whereupon a solid precipitated.

reactant | 1-(1-ethylpropylamino) anthraquinone | 20.02 g | C(C)C(CC)NC1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C19H19NO2
reactant | water | 600 mL | O | H2O
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
reactant | bromine | 12.03 g | BrBr | Br2
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | acetic acid | ca. 10 mL | C(C)(=O)O | C2H4O2
product | 1-(1-ethylpropylamino)-4-bromanthraquinone | C(C)C(CC)NC1=CC=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)Br | C19H18BrNO2
